*
R1 N064 N052 15
R2 N064 N053 10
R3 N064 N054 15
R4 N064 N036 5
R5 N069 N064 10
R6 N074 N064 15
R7 N074 N064 10
R8 0 N069 5
R9 0 N074 10
R10 0 N074 15
R11 0 N074 10
R12 N079 0 10
R13 N079 0 15
R14 N079 0 10
R15 N052 N053 10
R16 N053 N054 15
R17 N054 N036 20
R18 0 N084 15
R19 N084 N085 10
R20 N085 0 5
V1 N052 0 SINE(0 10 1k)
R21 N065 N035 15
R22 N065 N055 10
R23 N065 N056 15
R24 N065 N040 5
R25 N070 N065 10
R26 N075 N065 15
R27 N075 N065 10
R28 0 N070 5
R29 0 N075 10
R30 0 N075 15
R31 0 N075 10
R32 N080 0 10
R33 N080 0 15
R34 N080 0 10
R35 N035 N055 10
R36 N055 N056 15
R37 N056 N040 20
R38 0 N086 15
R39 N086 N087 10
R40 N087 0 5
R41 N027 N035 15
R42 N027 N034 10
R43 N027 N033 15
R44 N027 N032 5
R45 N022 N027 10
R46 N017 N027 15
R47 N017 N027 10
R48 N001 N022 5
R49 N001 N017 10
R50 N001 N017 15
R51 N001 N017 10
R52 N012 N001 10
R53 N012 N001 15
R54 N012 N001 10
R55 N035 N034 10
R56 N034 N033 15
R57 N033 N032 20
R58 N001 N003 15
R59 N003 N002 10
R60 N002 N001 5
R61 N028 N039 15
R62 N028 N038 10
R63 N028 N037 15
R64 N028 N036 5
R65 N023 N028 10
R66 N018 N028 15
R67 N018 N028 10
R68 N001 N023 5
R69 N001 N018 10
R70 N001 N018 15
R71 N001 N018 10
R72 N013 N001 10
R73 N013 N001 15
R74 N013 N001 10
R75 N039 N038 10
R76 N038 N037 15
R77 N037 N036 20
R78 N001 N005 15
R79 N005 N004 10
R80 N004 N001 5
R81 N066 N039 15
R82 N066 N057 10
R83 N066 N058 15
R84 N066 N044 5
R85 N071 N066 10
R86 N076 N066 15
R87 N076 N066 10
R88 0 N071 5
R89 0 N076 10
R90 0 N076 15
R91 0 N076 10
R92 N081 0 10
R93 N081 0 15
R94 N081 0 10
R95 N039 N057 10
R96 N057 N058 15
R97 N058 N044 20
R98 0 N088 15
R99 N088 N089 10
R100 N089 0 5
R101 N067 N043 15
R102 N067 N059 10
R103 N067 N060 15
R104 N067 N048 5
R105 N072 N067 10
R106 N077 N067 15
R107 N077 N067 10
R108 0 N072 5
R109 0 N077 10
R110 0 N077 15
R111 0 N077 10
R112 N082 0 10
R113 N082 0 15
R114 N082 0 10
R115 N043 N059 10
R116 N059 N060 15
R117 N060 N048 20
R118 0 N090 15
R119 N090 N091 10
R120 N091 0 5
R121 N029 N043 15
R122 N029 N042 10
R123 N029 N041 15
R124 N029 N040 5
R125 N024 N029 10
R126 N019 N029 15
R127 N019 N029 10
R128 N001 N024 5
R129 N001 N019 10
R130 N001 N019 15
R131 N001 N019 10
R132 N014 N001 10
R133 N014 N001 15
R134 N014 N001 10
R135 N043 N042 10
R136 N042 N041 15
R137 N041 N040 20
R138 N001 N007 15
R139 N007 N006 10
R140 N006 N001 5
R141 N030 N047 15
R142 N030 N046 10
R143 N030 N045 15
R144 N030 N044 5
R145 N025 N030 10
R146 N020 N030 15
R147 N020 N030 10
R148 N001 N025 5
R149 N001 N020 10
R150 N001 N020 15
R151 N001 N020 10
R152 N015 N001 10
R153 N015 N001 15
R154 N015 N001 10
R155 N047 N046 10
R156 N046 N045 15
R157 N045 N044 20
R158 N001 N009 15
R159 N009 N008 10
R160 N008 N001 5
R161 N068 N047 15
R162 N068 N061 10
R163 N068 N062 15
R164 N068 N063 5
R165 N073 N068 10
R166 N078 N068 15
R167 N078 N068 10
R168 0 N073 5
R169 0 N078 10
R170 0 N078 15
R171 0 N078 10
R172 N083 0 10
R173 N083 0 15
R174 N083 0 10
R175 N047 N061 10
R176 N061 N062 15
R177 N062 N063 20
R178 0 N092 15
R179 N092 N093 10
R180 N093 0 5
R181 N031 N051 15
R182 N031 N050 10
R183 N031 N049 15
R184 N031 N048 5
R185 N026 N031 10
R186 N021 N031 15
R187 N021 N031 10
R188 N001 N026 5
R189 N001 N021 10
R190 N001 N021 15
R191 N001 N021 10
R192 N016 N001 10
R193 N016 N001 15
R194 N016 N001 10
R195 N051 N050 10
R196 N050 N049 15
R197 N049 N048 20
R198 N001 N011 15
R199 N011 N010 10
R200 N010 N001 5
.tran 0 1m 0 1u
.backanno
.end

